US09108966B2
Pyridine (2.8 mL, 36.0 mmol was added to a solution of tert-butyl 4-(2-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)hydrazine-carbonyl)piperazine-1-carboxylate (903 mg, 1.8 mmol) in DCM (200 mL). (CF3SO2)2O (2.8 ml, 9.0 mmol) was then added slowly at −10° C. The reaction mixture was stirred at rt for 3 hrs. Saturated NaHCO3 was added at −10° C. very slowly. The combined organic layer was separated and the aqueous layer was exacted with EtOAc (3×). The combined organic layer was dried over Na2SO4, and concentrated. The crude product was purified by silica gel column chromatography (2:1 EtOAc/hexanes) to give tert-butyl 4-(5-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octan-2-yl)-1,3,4-oxadiazol-2-yl)piperazine-1-carboxylate (723 mg, 83%) as a slight yellow solid. ESI-MS (EI+, m/z): 485.2 [M+H]+.

reactant | Pyridine | N1=CC=CC=C1 | C5H5N
reactant | tert-butyl 4-(2-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)hydrazine-carbonyl)piperazine-1-carboxylate | 1.8 mmol, 903 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NNC(=O)N2CCN(CC2)C(=O)OC(C)(C)C | C24H34N6O6
reactant | (CF3SO2)2O | 9.0 mmol, 2.8 ml | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(5-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octan-2-yl)-1,3,4-oxadiazol-2-yl)piperazine-1-carboxylate | 723 mg, 83% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NN=C(O2)N2CCN(CC2)C(=O)OC(C)(C)C | C24H32N6O5
